*** SPICE deck for cell Op-Amp-Tow-Stages{lay} from library Op-Amplifier-Two_Stages
*** Created on Mon Nov 21, 2016 10:14:02
*** Last revised on Mon Nov 21, 2016 17:26:43
*** Written on Mon Nov 21, 2016 17:29:01 by Electric VLSI Design System, version 9.06
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** TOP LEVEL CELL: Op-Amp-Tow-Stages{lay}
MM1_A_1 sourceM1_1 vinM1_1 drainM1_1 Vss_1 nmosG L=1.6U W=4U AS=22.773P AD=14.72P PS=19.2U PD=12.32U
MM1_B_1 drainM1_1 vinM1_1 sourceM1_1 Vss_1 nmosG L=1.6U W=4U AS=14.72P AD=22.773P PS=12.32U PD=19.2U
MM2_A_1 drainM2_1 vinM2_1 sourceM1_1 Vss_1 nmosG L=1.6U W=4U AS=14.72P AD=23.947P PS=12.32U PD=19.733U
MM2_B_1 sourceM1_1 vinM2_1 drainM2_1 Vss_1 nmosG L=1.6U W=4U AS=23.947P AD=14.72P PS=19.733U PD=12.32U
MM3_A_1 Vdd_1 drainM1_1 drainM1_1 Vdd_1 pmosG L=1.6U W=4.4U AS=22.773P AD=22.937P PS=19.2U PD=13.657U
MM3_B_1 drainM1_1 drainM1_1 Vdd_1 Vdd_1 pmosG L=1.6U W=4.4U AS=22.937P AD=22.773P PS=13.657U PD=19.2U
MM3_C_1 Vdd_1 drainM1_1 drainM1_1 Vdd_1 pmosG L=1.6U W=4.4U AS=22.773P AD=22.937P PS=19.2U PD=13.657U
MM3_D_1 drainM1_1 drainM1_1 Vdd_1 Vdd_1 pmosG L=1.6U W=4.4U AS=22.937P AD=22.773P PS=13.657U PD=19.2U
MM4_A_1 drainM2_1 drainM1_1 Vdd_1 Vdd_1 pmosG L=1.6U W=4.4U AS=22.937P AD=23.947P PS=13.657U PD=19.733U
MM4_B_1 Vdd_1 drainM1_1 drainM2_1 Vdd_1 pmosG L=1.6U W=4.4U AS=23.947P AD=22.937P PS=19.733U PD=13.657U
MM4_C_1 drainM2_1 drainM1_1 Vdd_1 Vdd_1 pmosG L=1.6U W=4.4U AS=22.937P AD=23.947P PS=13.657U PD=19.733U
MM4_D_1 Vdd_1 drainM1_1 drainM2_1 Vdd_1 pmosG L=1.6U W=4.4U AS=23.947P AD=22.937P PS=19.733U PD=13.657U
MM5_1 Vss_1 vbiasM5_1 sourceM1_1 Vss_1 nmosG L=1.6U W=3.2U AS=14.72P AD=18.304P PS=12.32U PD=13.6U
MM6_1_1 Vdd_1 drainM2_1 vout_1 Vdd_1 pmosG L=1.6U W=8U AS=28.48P AD=22.937P PS=17.467U PD=13.657U
MM6_2_1 vout_1 drainM2_1 Vdd_1 Vdd_1 pmosG L=1.6U W=8U AS=22.937P AD=28.48P PS=13.657U PD=17.467U
MM6_3_1 Vdd_1 drainM2_1 vout_1 Vdd_1 pmosG L=1.6U W=8U AS=28.48P AD=22.937P PS=17.467U PD=13.657U
MM6_4_1 vout_1 drainM2_1 Vdd_1 Vdd_1 pmosG L=1.6U W=8U AS=22.937P AD=28.48P PS=13.657U PD=17.467U
MM6_5_1 Vdd_1 drainM2_1 vout_1 Vdd_1 pmosG L=1.6U W=8U AS=28.48P AD=22.937P PS=17.467U PD=13.657U
MM6_6_1 vout_1 drainM2_1 Vdd_1 Vdd_1 pmosG L=1.6U W=8U AS=22.937P AD=28.48P PS=13.657U PD=17.467U
MM6_7_1 Vdd_1 drainM2_1 vout_1 Vdd_1 pmosG L=1.6U W=8U AS=28.48P AD=22.937P PS=17.467U PD=13.657U
MM6_8_1 vout_1 drainM2_1 Vdd_1 Vdd_1 pmosG L=1.6U W=8U AS=22.937P AD=28.48P PS=13.657U PD=17.467U
MM6_9_1 Vdd_1 drainM2_1 vout_1 Vdd_1 pmosG L=1.6U W=8U AS=28.48P AD=22.937P PS=17.467U PD=13.657U
MM6_10_1 vout_1 drainM2_1 Vdd_1 Vdd_1 pmosG L=1.6U W=8U AS=22.937P AD=28.48P PS=13.657U PD=17.467U
MM6_11_1 Vdd_1 drainM2_1 vout_1 Vdd_1 pmosG L=1.6U W=8U AS=28.48P AD=22.937P PS=17.467U PD=13.657U
MM6_12_1 vout_1 drainM2_1 Vdd_1 Vdd_1 pmosG L=1.6U W=8U AS=22.937P AD=28.48P PS=13.657U PD=17.467U
MM6_13_1 Vdd_1 drainM2_1 vout_1 Vdd_1 pmosG L=1.6U W=8U AS=28.48P AD=22.937P PS=17.467U PD=13.657U
MM6_14_1 vout_1 drainM2_1 Vdd_1 Vdd_1 pmosG L=1.6U W=8U AS=22.937P AD=28.48P PS=13.657U PD=17.467U
MM6_15_1 Vdd_1 drainM2_1 vout_1 Vdd_1 pmosG L=1.6U W=8U AS=28.48P AD=22.937P PS=17.467U PD=13.657U
MM6_16_1 vout_1 drainM2_1 Vdd_1 Vdd_1 pmosG L=1.6U W=8U AS=22.937P AD=28.48P PS=13.657U PD=17.467U
MM6_17_1 Vdd_1 drainM2_1 vout_1 Vdd_1 pmosG L=1.6U W=8U AS=28.48P AD=22.937P PS=17.467U PD=13.657U
MM6_18_1 vout_1 drainM2_1 Vdd_1 Vdd_1 pmosG L=1.6U W=8U AS=22.937P AD=28.48P PS=13.657U PD=17.467U
MM6_19_1 Vdd_1 drainM2_1 vout_1 Vdd_1 pmosG L=1.6U W=8U AS=28.48P AD=22.937P PS=17.467U PD=13.657U
MM6_20_1 vout_1 drainM2_1 Vdd_1 Vdd_1 pmosG L=1.6U W=8U AS=22.937P AD=28.48P PS=13.657U PD=17.467U
MM7_A_1 vout_1 vbiasM5_1 Vss_1 Vss_1 nmosG L=1.6U W=4.8U AS=18.304P AD=28.48P PS=13.6U PD=17.467U
MM7_B_1 Vss_1 vbiasM5_1 vout_1 Vss_1 nmosG L=1.6U W=4.8U AS=28.48P AD=18.304P PS=17.467U PD=13.6U
MM7_C_1 Vss_1 vbiasM5_1 vout_1 Vss_1 nmosG L=1.6U W=4.8U AS=28.48P AD=18.304P PS=17.467U PD=13.6U
MM7_D_1 vout_1 vbiasM5_1 Vss_1 Vss_1 nmosG L=1.6U W=4.8U AS=18.304P AD=28.48P PS=13.6U PD=17.467U

* Spice Code nodes in cell cell 'Op-Amp-Tow-Stages{lay}'
Vdd_1 Vdd_1 0 2.5
Vss_1 Vss_1 0 -2.5
.END
